US06180622B2
(3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[N-[5-(allyloxycarbonylaminomethyl)imidazo[5,1-b]thiazol-3-yl]methyl-N-methylaminocarbonyl]pyrrolidine
The procedure of Synthesis Example 1 is repeated, except that 255 mg of (3S,5S)-3-acetylthio-1-allyloxycarbonylpyrrolidin-5-carboxylic acid, 0.93 ml of a 1.1 M Vilsmeier reagent/dichloromethane solution, and 262 mg of 5-allyloxycarbonylaminomethyl-3-(N-methylamino-methyl)imidazo[5,1-b]thiazole are used and 0.145 ml of triethylamine is finally added at 4° C. followed by stirring at room temperature for additional 50 min. Thus, 327.5 mg of the title compound is prepared as a colorless amorphous material.

reactant | (3S,5S)-3-acetylthio-1-allyloxycarbonylpyrrolidin-5-carboxylic acid | 255 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(=O)O)C(=O)OCC=C | C11H15NO5S
reactant | Vilsmeier reagent dichloromethane | 1.1 M | C[N+](=CCl)C.[Cl-].ClCCl
reactant | 5-allyloxycarbonylaminomethyl-3-(N-methylamino-methyl)imidazo[5,1-b]thiazole | 262 mg | C(C=C)OC(=O)NCC1=NC=C2SC=C(N21)CNC | C12H16N4O2S
solvent | triethylamine | 0.145 ml | C(C)N(CC)CC | C6H15N
product | (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[N-[5-(allyloxycarbonylaminomethyl)imidazo[5,1-b]thiazol-3-yl]methyl-N-methylaminocarbonyl]pyrrolidine | 327.5 mg | C(C)(=O)S[C@@H]1CN([C@@H](C1)C(=O)N(C)CC=1N2C(SC1)=CN=C2CNC(=O)OCC=C)C(=O)OCC=C | C23H29N5O6S2
